US08207134B2
5) Synthesis of 1-benzenesulfonyl-6-bromo-1H-indol-5-ylmethyl acetate
Under a nitrogen stream, to a solution of 1-benzenesulfonyl-6-bromo-5-bromomethyl-1H-indole (14 mg, 0.03 mmol) in DMF (0.2 mL) was added sodium acetate (4 mg, 0.05 mmol), and the resultant mixture was then stirred for 2 hours at 80° C. The reaction mixture was cooled to room temperature, and then purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (2:5)), to thereby obtain the titled compound (11 mg, 85%).

reactant | 1-benzenesulfonyl-6-bromo-5-bromomethyl-1H-indole | 0.03 mmol, 14 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)CBr | C15H11Br2NO2S
reactant | sodium acetate | 0.05 mmol, 4 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 1-benzenesulfonyl-6-bromo-1H-indol-5-ylmethyl acetate | 11 mg, 85% | C(C)(=O)OCC=1C=C2C=CN(C2=CC1Br)S(=O)(=O)C1=CC=CC=C1 | C17H14BrNO4S
